US05017724
To 1.5 ml of pyridine were added 1.0 g of 7-(1-methyl-2-propenyl)-8-hydroxy-5-methyl-9-methylamino-1,2,3,4,4a,9a-hexahydrofluorene and 0.7 g of nicotinoylchloride hydrochloride, followed by stirring at room temperature for 5 hours. The reaction mixture was concentrated and then extracted with chloroform. The chloroform layer was washed with water, dried with sodium sulfate and then concentrated. The residue was purified by a silica gel column chromatography (eluent: ethyl acetate) and then recrystallized from ethyl acetate-n-hexane to obtain 0.7 g of 7-(1-methyl-2-propenyl)-8-hydroxy-5-methyl-9-(N-methyl-N-nicotinoylamino)- 1,2,3,4,4a,9a-hexahydrofluorene having a melting point of 183°-184° C. and of colorless powdery crystal.

reactant | 7-(1-methyl-2-propenyl)-8-hydroxy-5-methyl-9-methylamino-1,2,3,4,4a,9a-hexahydrofluorene | 1.0 g | CC(C=C)C1=CC(=C2C3CCCCC3C(C2=C1O)NC)C | C19H27NO
reactant | nicotinoylchloride hydrochloride | 0.7 g | Cl.C(C1=CN=CC=C1)(=O)Cl
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | 7-(1-methyl-2-propenyl)-8-hydroxy-5-methyl-9-(N-methyl-N-nicotinoylamino)- 1,2,3,4,4a,9a-hexahydrofluorene | 0.7 g | CC(C=C)C1=CC(=C2C3CCCCC3C(C2=C1O)N(C(C1=CN=CC=C1)=O)C)C | C25H30N2O2
